US04478833
8-Benzylthio-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
20.3 gm (0.05 mol) of 8-benzylthio-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 188°-190° C.) were refluxed for about 45 minutes with 8 gm (0.13 mol) of 2-hydroxyethyl-amine in 400 ml of dioxane. Most of the solvent was distilled off in vacuo, and the residue was taken up in about 500 ml of water. The reaction product, which precipitated after standing for a little while, was filtered off, washed with water and dried at about 70° C.

reactant | 8-benzylthio-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | 0.05 mol, 20.3 gm | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C17H16ClN5OS2
reactant | 2-hydroxyethyl-amine | 0.13 mol, 8 gm | OCCN | C2H7NO
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 8-Benzylthio-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NCCO | C19H22N6O2S2
